US07420001B2
To a solution of (5-bromo-4-methoxy-3-methyl-benzofuran-2-yl)-methanol in 7 mL of dichloromethane was added 0.5 mL of thionyl chloride at room temperature. After 2 h the reaction was concentrated in vacuo, diluted with ethyl acetate and washed with water. The organics were dried over magnesium sulfate, filtered and concentrated in vacuo to give 216 mg (92%) of 5-bromo-2-chloromethyl-4-methoxy-3-methyl-benzofuran. 1H NMR (400 MHz, CDC3) δ ppm 2.4 (s, 3 H) 3.9 (s, 3 H) 4.7 (s, 2 H) 7.1 (d, J=8.8 Hz, 1 H) 7.4 (d, J=8.6 Hz, 1 H).

reactant | (5-bromo-4-methoxy-3-methyl-benzofuran-2-yl)-methanol | BrC=1C=CC2=C(C(=C(O2)CO)C)C1OC | C11H11BrO3
reactant | thionyl chloride | 0.5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 5-bromo-2-chloromethyl-4-methoxy-3-methyl-benzofuran | 216 mg, 92% | BrC=1C=CC2=C(C(=C(O2)CCl)C)C1OC | C11H10BrClO2
